US07642264B2
N-Hydroxy-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine-2-carboxamidine
A stirred mixture of 4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile (example B.2) (1.0 g, 3.15 mmol), hydroxylamine hydrochloride (0.81 g, 11.7 mol) and sodium carbonate (0.67 g, 6.32 mol) in water (15 mL) and ethanol (15 mL) was heated under reflux conditions for 2 h. The ethanol was removed partly and the mixture stirred at room temperature for 0.5 h. The precipitate was collected by filtration, washed with water and dried to yield the title compound (1.08 g, 98%) as a light brown solid. MS (ISP) 351.1 [(M+H)+]; mp 224° C.

reactant | 4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile | 3.15 mmol, 1.0 g | FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C#N)(F)F | C13H5F6N3
reactant | hydroxylamine hydrochloride | 11.7 mol, 0.81 g | Cl.NO
reactant | sodium carbonate | 6.32 mol, 0.67 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 15 mL | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | N-Hydroxy-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine-2-carboxamidine | 1.08 g, 98% | ONC(=N)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C13H8F6N4O
